US07915281B2
A solution of hydrazine hydrate (888 mg, 15.1 mmol) in THF (5 mL) was added to a solution of 2-[(5-butylisoxazol-3-yl)methyl]-1H-isoindole-1,3(2H)-dione (2.14 g, 7.53 mmol) in 2:1 ethanol:THF (60 mL), and the solution was heated at reflux gently for four hours. A precipitate formed and was removed by filtration and washed with THF. The filtrate was concentrated under reduced pressure to provide 1.0 g of (5-butylisoxazol-3-yl)methylamine as a pale yellow solid.

reactant | hydrazine hydrate | 15.1 mmol, 888 mg | O.NN
reactant | 2-[(5-butylisoxazol-3-yl)methyl]-1H-isoindole-1,3(2H)-dione | 7.53 mmol, 2.14 g | C(CCC)C1=CC(=NO1)CN1C(C2=CC=CC=C2C1=O)=O | C16H16N2O3
reactant | ethanol | C(C)O | C2H6O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | (5-butylisoxazol-3-yl)methylamine | 1.0 g | C(CCC)C1=CC(=NO1)CN | C8H14N2O
